US06953792B2
4-Oxo-1-phenylcyclohexanecarboxylic Acid
Lithium hydroxide monohydrate (11.08 g, 264 mmol) was added to a suspension of dimethyl 4-oxo-1-phenyl-1,3-cyclohexanedicarboxylate (Description 1, 25.5 g, 87.9 mmol) in methanol (250 mL), water (83 mL) and tetrahydrofuran (83 mL) and the mixture was heated under reflux for 3 days. The mixture was cooled and the tetrahydrofuran and methanol were evaporated under reduced pressure. The pH was adjusted to 1 with hydrochloric acid (5M) and the mixture was extracted with dichloromethane. The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a light yellow solid (19 g, 99%). 1H NMR (400 MHz, CDCl3) δ 7.50-7.29 (5H, m), 2.29-2.73 (2H, m), 2.62-2.55 (2H, m), 2.47-2.41 (2H, m), and 2.35-2.27 (2H, m).

reactant | Lithium hydroxide monohydrate | 264 mmol, 11.08 g | O.[OH-].[Li+]
reactant | dimethyl 4-oxo-1-phenyl-1,3-cyclohexanedicarboxylate | 87.9 mmol, 25.5 g | O=C1C(CC(CC1)(C(=O)OC)C1=CC=CC=C1)C(=O)OC | C16H18O5
solvent | methanol | 250 mL | CO | CH4O
solvent | water | 83 mL | O | H2O
solvent | tetrahydrofuran | 83 mL | O1CCCC1 | C4H8O
product | 4-Oxo-1-phenylcyclohexanecarboxylic Acid | 19 g, 99% | O=C1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C13H14O3
